US04692447
Anhydrous aluminum trichloride (25 g) is added dropwise to a stirred mixture of acetylchloride (11.8 g), indane (24 g) and dry benzene (100 ml) stirred at 5-8° C. The stirring is continued for 6 hours at this temperature until the evolution of hydrogen chloride is over; then, the mixture is partitioned with ice (200 g) and 6N hydrochloric acid (100 ml), the organic phase is separated, the aqueous phase is extracted with benzene. The organic benzene layers are collected, washed until neutral, dried on MgSO4 and the excess solvent is evaporated under vacuum. The residue (28.5 g) is distilled in high vacuum (1 mmHg) and the fractions with b.p. 80°-85° C. are collected affording 16 g of 5-acetylindane. I.R.=1680 cm-1. H-NMR (CDCl3 /TMS): 7.1-7.8 (m, 3H, Ar); 2.9 (t, 4H); 2.55 (s, 3H, CH3); 1.9-2.4 (m, 2H). A solution of 5-acetylindane (15 g) in ethanol (50 ml) is treated with a solution of hydroxylamine hydrochloride (15 g) and potassium acetate (21.5 g) in ethanol (50 ml) for 20 minutes at the reflux temperature. The excess of the solvent is evaporated in vacuum and the mixture is diluted with water. The precipitate is collected by filtration affording 15.01 g of 5-acetylindane oxime m.p. 104° C. I.R.=3200 cm-1. H-NMR (CDCl3 /TMS): 8.15 (s, 1H, N--OH); 2.3 (s, 3H, CH3).

reactant | aluminum trichloride | 25 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | acetylchloride | 11.8 g | C(C)(=O)Cl | C2H3ClO
reactant | indane | 24 g | C1CCC2=CC=CC=C12 | C9H10
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 5-acetylindane | 16 g | C(C)(=O)C=1C=C2CCCC2=CC1 | C11H12O
